US07199140B2
To a stirred solution of 5-{[tert-butyl(dimethyl)silyl]oxy}-2-methyl pyridine (1.20 g) in anhydrous THF (15 ml) under nitrogen and at −78° C. was added LDA (3.22 ml), and the solution stirred at −78° C. for 1 hour. 3,5 dibenzyloxy-benzaldehyde (2.05 g) was then added dropwise as a solution in THF, and the reaction mixture allowed to warm to ambient temperature over 1 hour. Water (20 ml) was added and the resulting mixture extracted with ethyl acetate (3×30 ml). The extracts were combined, washed with brine (20 ml), dried (MgSO4) and evaporated to give a gum. This was dissolved in THF (10 ml) and concentrated hydrochloric acid (10 ml) added. The mixture was stirred at ambient temperature for 3 hours, cooled to 0° C. and taken to pH 8.5 with concentrated ammonia solution. The mixture was diluted with water (50 ml) and extracted with ethyl acetate (3×100 ml). The extracts were combined, dried (MgSO4) and evaporated to leave an oil which was purified by MPLC on silica, eluting with 60–100% ethyl acetate in hexane to give 6-{2-[3,5-bis(benzyloxy)phenyl]-2-hydroxyethyl}pyridin-3-ol (2.25 g) as a glass, m/z 428 (M+H)+.

reactant | 5-{[tert-butyl(dimethyl)silyl]oxy}-2-methyl pyridine | 1.20 g | [Si](C)(C)(C(C)(C)C)OC=1C=CC(=NC1)C | C12H21NOSi
reactant | LDA | 3.22 ml | [Li+].CC(C)[N-]C(C)C
reactant | 3,5 dibenzyloxy-benzaldehyde | 2.05 g | C(C1=CC=CC=C1)OC=1C=C(C=O)C=C(C1)OCC1=CC=CC=C1 | C21H18O3
reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | ammonia | N | H3N
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | 50 ml | O | H2O
solvent | Water | 20 ml | O | H2O
product | 6-{2-[3,5-bis(benzyloxy)phenyl]-2-hydroxyethyl}pyridin-3-ol | 2.25 g | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)OCC1=CC=CC=C1)C(CC1=CC=C(C=N1)O)O | C27H25NO4
